US08198488B2
General procedure for the catalytic hydrogenation of methyl benzoate as substrate:
Under argon, a Keim autoclave was charged with [RuCl2(R-BINAP)(dmf)2] (0.01 mmol, 0.05 mol %) and S,S-DPEN (0.01 mmol, 0.05 mol %) followed by THF (2 ml) and the solution stirred for 5 minutes. Then a solution of the desired ester (20 mmol) in THF (2 ml), followed by more THF (2×1 ml), and a solution of tridecane (1 mmol) in THF (2 ml), as internal standard, followed by more THF (2×1 ml), were successively added to the autoclave. Finally, solid NaOMe (1 mmol, 5 mol %) was added and the autoclave was pressurised with hydrogen gas at 50 bars and placed in a thermostatted oil bath set at 60° C. After the mentioned time, the autoclave was removed from the oil bath, and cooled in a cold-water bath. Then, an aliquot (0.4 ml) was taken, diluted with MTBE (5 ml), washed with aq. sat. NH4Cl (5 ml), and filtered over a plug of celite and analyzed by GC.

reactant | tridecane | 1 mmol | CCCCCCCCCCCCC | C13H28
reactant | NaOMe | 1 mmol | C[O-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | THF | 1 ml | C1CCOC1 | C4H8O
reactant | THF | 1 ml | C1CCOC1 | C4H8O
reactant | THF | 2 ml | C1CCOC1 | C4H8O
product | methyl benzoate | C(C1=CC=CC=C1)(=O)OC | C8H8O2
